Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
doxycycline / minocycline / vancomycin
 
Attending: ___
 
Chief Complaint:
Left elbow pain and swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o depression, anxiety who presents for admission for 4
days of worsening erythema and swelling due to persisting L 
elbow
olecranon bursitis and L forearm cellulitis. She was in her 
usual
state of health until ___ (___), when she noticed painful
swelling of her L elbow. Ortho at urgent care saw her and
aspirated 1 ml bloody fluid on ___. She has received a total of
4 doses of Ceftriaxone, ___ does was IM, the remainder 3 doses
were IV. Was also started on PO Clinda, which was switched to PO
Bactrim given worsening of the erythema. CRP elevated at 24, CBC
and BMP WNL at urgent care, no radiographic evidence of
osteomyelitis.

In the ED, initial VS were:  

 16:52   5   99   77   117/67   20   100% RA 
 

Exam notable for: 
Full active and passive ROM of L arm. Pain over olecranon 
worsens
from ___ to ___ upon palpation. L elbow swollen and L
forearm tender. 

Labs showed:  

      14.5   
 7.9 >----< 313
      43.0  
 
140  101  13   
------------<  99   AGap=14 
4.2  25  0.8  

Imaging showed: 
No imaging performed in ED. Imaging reviewed from Atrius record: 


XR L elbow (___): mild soft tissue swelling overlying 
olecranon.
No acute osseous findings. No radiographic evidence of
osteomyelitis.

XR L forearm (___): soft tissue swelling posterior to ulna. No
plain film evidence of osteomyelitis.

Patient received: 
 
___ 21:37 IV Vancomycin   Started  
___ 21:55 IV Vancomycin 240 mg Stopped (___) ___ patient
side effect

Transfer VS were:  
97.8   72   106/69   16    100% RA 

Of note:  per patient report in ED:
- reports allergy to Doxy (finger itching) 
- 1x IM CTX, developed hives over IM site
- was changed to Clinda, and cellulitis worsened
- was changed from Clinda to Bactrim, and cellulitis worsened
was now send for admission and IV ABx and developed hot flushes
and scalp itching with IV Vanc (which was subsequently stopped
___ patient itching of scalp and facial flushing)

Per Review of Atrius records: 

--Traveled to ___ in ___. Bit by mosquito. Had
continuous itching on returning in ___.
--subsequently skin was dry along elbow and was itching it
continuously.
--Awoke with acute L elbow pain and swelling earlier week of
___.
--Was seen by Ortho on ___ Had 1ml bloody fluid aspirated ___
and Ceftriaxone 1g was given.
--Started Clindamycin as well ___.
--Had increasing erythema ___ and received Ceftriaxone IV 1mg.
--Returned to ___ on ___ and erythema had regressed a bit. Was
given additional dose of IM CTX 1gm and clindamycin was
continued. 
--___, she noticed that the erythema was actually spreading 
down
towards her wrist, but overall the ROM of the elbow has 
continued
to improve. 
--Additional dose of CTX 1gm IV yesterday (4th dose) and ___
switched to bactrim 
--seen in ___ ___ where she was noted to have spreading erythema
area, with an area that feels tight and inflammed which is new
from ___

On arrival to the floor, she reports about 2 weeks before that,
got bit on the elbow by a bug in ___. She reports it was
still itchy when she got back. She reports the swelling and pain
happened immediately when she woke up the ___ prior to
presentation.
She reports first the swelling was around the elbow, and now 
with
the extension going down the arm. 
She reports the pain is not worse, but the swelling is going 
down
a larger area. She reports her range of motion has improved. SHe
reports the tip of the elbow was very red. 

She reports she had a "sinus infection" while in ___, and
reports she was still sick for about a week when she returned
___ weeks before elbow pain).  Denies f/c, n/v, diarrhea,
constipation, denies dysuria, reports abnormal vaginal discharge
while in ___ (bright green, heavy) while in ___, foul
smelling. Denies prior episode of this. Denies abdominal pain.
Denies cough. Denies headache, dizziness. 
 
She denies past history of rheumatologic conditions.

REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY: 
mild dysplasia of cervix
ulcer disease
Eustachian tube dysfunction
fear of flying
abnormal cervical pap smear with positive HPV DNA test
generalized anxiety disorder
major depressive disorder
 
Social History:
___
Family History:
Brother--depression
Father--depression
Maternal aunt--DM1, HTN, Osteoporosis, stroke, mitochondrial
disease 
Maternal grandfather--deceased, CAD/PVD (___)
Mother--depression, OA, alopecia
Sister--endometriosis, depression
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VS:     0017 97.9  PO 98 / 61  R Sitting 71 16 98 Ra 
GENERAL: NAD, pleasant  
HEENT: AT/NC, EOMI grossly, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema. R elbow, wrist, 
fingers and bilateral knees, ankles and toes without erythema or 
edema. L elbow with area of erythema and warmth surrounding 
elbow/olecranon process with healing, scabbed bug bite overlying 
center; area of faint redness extending down to forearm 
extending
approximately ___ cm beyond lowest marking. no area of 
fluctuance or apparent fluid collection noted.
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

=======================
DISCHARGE PHYSICAL EXAM
=======================
VS: 98.5, 96 / 57, 69, 18, 97% RA 
GENERAL: Alert, pleasant young woman in NAD who is sitting in 
bed talking with family 
HEENT: Anicteric sclera,  MMM  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB - no wheezes, rales, or rhonchi
ABDOMEN: +BS, S, NT, ND 
EXTREMITIES: no cyanosis, clubbing, or edema. 
MSK: 
-L elbow: small area of erythema and edema surrounding the 
elbow/olecranon; otherwise no area of extending erythema to 
forearm 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 09:15PM BLOOD ___ 
___ Plt ___
___ 09:15PM BLOOD ___ 
___ Im ___ 
___
___ 09:15PM BLOOD Plt ___
___ 09:15PM BLOOD ___ 
___
___ 09:15PM BLOOD CK(CPK)-121

===============
IMAGING/STUDIES
===============
Imaging reviewed from Atrius record: 

XR L elbow (___): mild soft tissue swelling overlying 
olecranon. No acute osseous findings. No radiographic evidence 
of osteomyelitis.

XR L forearm (___): soft tissue swelling posterior to ulna. No 
plain film evidence of osteomyelitis.

==============
DISCHARGE LABS
==============
___ 04:50AM BLOOD ___ 
___ Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD ___ 
___
___ 04:50AM BLOOD ___
___ 04:50AM BLOOD ___
___ 04:50AM BLOOD ___
 
Brief Hospital Course:
================
PATIENT SUMMARY
================
Mrs. ___ is a pleasant ___ woman with history of 
depression and anxiety who was admitted for 4 days of worsening 
erythema and swelling due to persisting L elbow olecranon 
bursitis and L forearm cellulitis, with significant improvement 
s/p Bactrim administration. 

==============
ACUTE ISSUES
==============
#L elbow bursitis
# LUE cellulitis: Per ___ records, Mrs. ___ had 
worsening L elbow pain,
swelling, and skin changes since awakening on ___ after 
recent travel to ___ and a insect bite on her L elbow. At 
At___, she had multiple XRays which did not show osteomyelitis. 
She had a CRP 24.7 on ___, however when repeated here it was 
only 7.9. Per report, while outpatient she received total of 4 
doses of Ceftriaxone (1st dose was IM, the remainder 3 doses 
were IV). She was then transitioned to PO Clindamycin due to 
lack of improvement, which was changed to PO Bactrim given 
worsening of the erythema. She received two doses of PO Bactrim, 
and then had worsening of her cellulitis - after which point she 
was referred to ___ ED. While in the ED, she received one 
partial dose of Vancomycin (stopped ___ side effect of scalp 
itching and facial flushing). As such, she was continued on 
Bactrim DS - which she had significant improvement in erythema, 
swelling, and pain on after another two doses. As such, it seems 
that Bactrim DS is an appropriate antibiotic choice for Mrs. 
___ - however, was not given an adequate amount of time to 
act prior to referral to the ED. Mrs. ___ was discharged 
on Bactrim DS BID, with close follow up with her Orthopedist on 
___. We are working on arranging a PCP appointment for close 
follow up as well. 

#History of abnormal vaginal discharge: Per report, Mrs. 
___ was having abnormal "green" vaginal discharge while in 
___. We obtained a urine Gonorrhea/Chlamydia test, which 
were pending at discharge. We recommend follow up with PCP. 

===============
CHRONIC ISSUES
===============
#Anxiety
#Depression: Continued home Escitalopram

====================
TRANSITIONAL ISSUES
====================
[ ] Continue Bactrim DS twice daily until further evaluation by 
Orthopedist and PCP - may warrant a ___ week total course of 
antibiotics. Patient already had a 9 day supply of Bactrim. 
Another 12 days were prescribed for a total of 21 days. 
[ ] Follow up with Orthopedist on ___ to monitor the 
progression of Olecranon bursitis and cellulitis while on 
Bactrim.
[ ] Follow up with PCP as scheduled to monitor the progression 
of Olecranon bursitis and cellulitis while on Bactrim
[ ] Please follow up pending urine Gonorrhea/Chlamydia testing.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. TraMADol 50 mg PO DAILY:PRN Pain - Moderate 
4. LORazepam 0.5 mg PO DAILY:PRN for fear of flying 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Ibuprofen ___ mg PO Q6H:PRN Pain - Moderate  
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX ___ [Bactrim DS] 800 ___ mg 2 
tablet(s) by mouth twice per day Disp #*48 Tablet Refills:*0 
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  LORazepam 0.5 mg PO DAILY:PRN for fear of flying  
6.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
Olecranon bursitis
Cellulitis
History of abnormal vaginal discharge

SECONDARY:
Depression
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
  
 ___ was a pleasure to care for you at the ___ 
___.  

 Why did you come to the hospital?  
 - You were having swelling of your left elbow that was not 
improving with antibiotics
 
 What did you receive in the hospital?  
 - We tried IV antibiotics but you had a reaction to it. We 
restarted you on Bactrim, which you tolerated well and had 
improvement in your symptoms. 

 What should you do once you leave the hospital?  
 - Continue to take Bactrim two tablets twice per day. You will 
have close follow up with your PCP and orthopedist to determine 
the total duration of antibiotics that you will take - you may 
be taking these for the next ___ weeks though. 
 - For pain control try taking 1000mg every 8 hours as needed, 
and ibuprofen ___ in between every 8 hours as needed for 
breakthrough pain. 

 We wish you the best!  
 Your ___ Care Team  

 
Followup Instructions:
___